US05037986
To a solution of 23.5 g (0.104 mole) of 1-(1,1-dimethylethyl)-1H-imidazo[4,5-c]quinoline in 200 mL of chloroform was added 23.4 g (0.115 mole) of metachloroperbenzoic acid. The mixture was stirred at about 20° C. for 24 hours. The solution was basified with saturated sodium bicarbonate solution, then dried over magnesium sulfate. Filtration of the mixture, followed by evaporation in vacuo provided a cream colored solid. The solid residue was slurried in dilute ammonium hydroxide, then filtered, washed with water and dried, to provide white solid 1-(1,1-dimethylethyl)-1H-imidazo[4,5-c]quinoline-5-oxide.

reactant | 1-(1,1-dimethylethyl)-1H-imidazo[4,5-c]quinoline | 0.104 mole, 23.5 g | CC(C)(C)N1C=NC=2C=NC=3C=CC=CC3C21 | C14H15N3
reactant | metachloroperbenzoic acid | 0.115 mole, 23.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 1-(1,1-dimethylethyl)-1H-imidazo[4,5-c]quinoline-5-oxide | CC(C)(C)N1C=NC=2C=[N+](C=3C=CC=CC3C21)[O-] | C14H15N3O
